US09238644B2
(a) tert-Butyl 4-((4-chloro-5-(trifluoromethyl)pyrimidin-2-yl)amino)-1H-pyrazole-1-carboxylate (A61)
A 1.0 M solution of zinc chloride in Et2O (4.0 mL, 4.0 mmol) was added to 2,4-dichloro-5-trifluoromethylpyrimidine (0.49 mL, 3.6 mmol) in a 1:1 mixture of DCE/t-BuOH (40 mL) at 0° C. under a nitrogen atmosphere. The mixture was stirred for 1 hour before tert-butyl 4-amino-1H-pyrazole-1-carboxylate (0.606 g, 3.31 mmol) and triethylamine (0.51 mL, 3.7 mmol) in a 1:1 mixture of DCE/t-BuOH (30 mL) was added. The mixture was allowed to warm to room temperature and stirred for 20 hours before concentrating in vacuo and adding gradually to 100 mL water. The resulting precipitate was removed by vacuum filtration and washed with DCM. The filtrate was purified using silica gel column chromatography (0-30% EtOAc in DCM) to give the title compound A61 (0.170 g, 14%). LCMS-D: rt 3.622 min; m/z 362.1 [M−H]−.

reactant | Et2O | 4.0 mmol, 4.0 mL | CCOCC | C4H10O
reactant | 2,4-dichloro-5-trifluoromethylpyrimidine | 3.6 mmol, 0.49 mL | ClC1=NC=C(C(=N1)Cl)C(F)(F)F | C5HCl2F3N2
reactant | tert-butyl 4-amino-1H-pyrazole-1-carboxylate | 3.31 mmol, 0.606 g | NC=1C=NN(C1)C(=O)OC(C)(C)C | C8H13N3O2
reactant | triethylamine | 3.7 mmol, 0.51 mL | C(C)N(CC)CC | C6H15N
catalyst | zinc chloride | [Cl-].[Zn+2].[Cl-]
solvent | DCE t-BuOH | 30 mL | ClCCCl.CC(C)(C)O
solvent | DCE t-BuOH | 40 mL | ClCCCl.CC(C)(C)O
product | tert-Butyl 4-((4-chloro-5-(trifluoromethyl)pyrimidin-2-yl)amino)-1H-pyrazole-1-carboxylate | ClC1=NC(=NC=C1C(F)(F)F)NC=1C=NN(C1)C(=O)OC(C)(C)C | C13H13ClF3N5O2
